US04419517
N-Methyl-4-m-hydroxyphenyl)-trans-decahydroisoquinoline
A solution of 800 mg of N-methyl-4a-(m-methoxyphenyl)-trans-decahydroisoquinoline (3.09 mmoles) in 30 ml of methylene chloride was added in portions to an ice-cold solution of 0.59 ml (1.55 g, 6.18 mmoles) of boron tribromide in 15 ml of methylene chloride. The solution, protected under nitrogen, was kept overnight at 25° C. Methanol (5 ml) was then added and the solution evaporated. The residue was treated with 15 ml of 5 N aqueous sodium hydroxide and the mixture stirred for 15 minutes. Ether (50 ml) was added and the bilayer mixture stirred for 2 hours. The aqueous and ether layers were finally separated and the aqueous portion saturated with carbon dioxide. The resulting solid precipitate was extracted with ether and the extract concentrated to give 680 mg of N-methyl-4a-(m-hydroxyphenyl)-trans-decahydroisoquinoline, mp 195°-205° C.

reactant | N-methyl-4a-(m-methoxyphenyl)-trans-decahydroisoquinoline | 3.09 mmoles, 800 mg | CN1C[C@@H]2CCCC[C@]2(CC1)C1=CC(=CC=C1)OC | C17H25NO
reactant | boron tribromide | 6.18 mmoles, 0.59 ml, 1.55 g | B(Br)(Br)Br | BBr3
reactant | Methanol | 5 ml | CO | CH4O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | trans-decahydroisoquinoline | C1NCC[C@@H]2CCCC[C@@H]12 | C9H17N
